US04010184
To a suspension of 5.1 g of 7-ethyl-5-(2-pyridyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine in 50 ml of pyridine is added 2.4 g of dimethylcarbamoyl chloride, and stirred for 24 hours at 60° C. Then pyridine is evaporated under reduced pressure. To the residue is added acetone to crystallize. The crude crystals obtained are recrystallized from ethanol to give 7-ethyl-1-dimethylcarbamoyl-5-(2-pyridyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine dihydrochloride, melting at 183°-192° C with decomposition.

reactant | 7-ethyl-5-(2-pyridyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | 5.1 g | C(C)C1=CC2=C(NCCN=C2C2=NC=CC=C2)S1 | C14H15N3S
reactant | dimethylcarbamoyl chloride | 2.4 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 7-ethyl-1-dimethylcarbamoyl-5-(2-pyridyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine dihydrochloride | Cl.Cl.C(C)C1=CC2=C(N(CCN=C2C2=NC=CC=C2)C(N(C)C)=O)S1 | InChI=1S/C17H20N4OS.2ClH/c1-4-12-11-13-15(14-7-5-6-8-18-14)19-9-10-21(16(13)23-12)17(22)20(2)3;;/h5-8,11H,4,9-10H2,1-3H3;2*1H
